US08648041B2
A mixture of Meldrum's acid (5.52 g, 38.3 mmol), potassium carbonate (26.5 g, 191 mmol) and methyl iodide (7.15 mL, 115 mmol) in acetonitrile (75 mL) was heated at 75° C. in a sealed tube for 7 hrs. The mixture was cooled to room temperature, diluted with dichloromethane (300 mL), filtered and the filtrate evaporated to dryness in vacuo. Ethyl acetate (75 mL), hexanes (75 mL) and water (50 mL) were added and phases were separated. The organic layer was washed with 10% aqueous solution of sodium thiosulfate (50 mL) and water (50 mL); dried over anhydrous magnesium sulfate and solvent removed in vacuo to give 2,2,5,5-tetramethyl-[1,3]dioxane-4,6-dione as white solid.

reactant | Meldrum's acid | 38.3 mmol, 5.52 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | potassium carbonate | 191 mmol, 26.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 115 mmol, 7.15 mL | CI | CH3I
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 2,2,5,5-tetramethyl-[1,3]dioxane-4,6-dione | CC1(OC(C(C(O1)=O)(C)C)=O)C | C8H12O4
